US05061706
d. 1-Hydroxy-7-sulfamoyl-6-trifluoromethylquinoxaline-2,3(1H,4H)-dione
A suspension of 7-ethoxalylaminosulfonyl-1-hydroxy-6-trifluoromethylquinoxaline-2,3(1H,4H)-dione (12.0 g, 28 mmol) in 150 ml of 1M hydrochloric acid was heated at reflux for 2 h with stirring. The cooled mixture was filtered and the isolated solid was washed with water and light petroleum. The crude product was recrystallized from water with decolourizing charcoal and dried in vacuo over phosphorous pentoxide for 3 h to give 7.1 g (77%) of the pure title compound. M.p. 296° C. decomp. (DSC); IR (KBr): 1700, 1615 cm-1 ; 1H-NMR (DMSO-d6): 7.67 (s, 1H, ArH), 7.77 (s, 2H, NH2), 8.26 (s, 1H, ArH), 12.2 (broad s, 2H, NH and OH); MS m/e: 325 (M+, 100%).

reactant | 7-ethoxalylaminosulfonyl-1-hydroxy-6-trifluoromethylquinoxaline-2,3(1H,4H)-dione | 28 mmol, 12.0 g | C(=O)(C(=O)OCC)NS(=O)(=O)C1=C(C=C2NC(C(N(C2=C1)O)=O)=O)C(F)(F)F | C13H10F3N3O8S
solvent | hydrochloric acid | 1M, 150 ml | Cl | ClH
product | 1-Hydroxy-7-sulfamoyl-6-trifluoromethylquinoxaline-2,3(1H,4H)-dione | 7.1 g, 77% | ON1C(C(NC2=CC(=C(C=C12)S(N)(=O)=O)C(F)(F)F)=O)=O | C9H6F3N3O5S
